US05852011
Methyl 3,5-diaminobenzoate
Thionyl chloride (3.7 g) was added dropwise under ice cooling to a solution of 5.0 g (33 mmol) of 3,5-diaminobenzoic acid in 250 ml of methanol, followed by stirring at room temperature for 2 hours and then stirring under heating and reflux for additional 6 hours. After the solvent was distilled out under reduced pressure, the residue was neutralized with aqueous ammonia and then extracted with methylene chloride. The extract was dried over sodium sulfate and then dried up under reduced pressure, whereby 3.3 g of white powder were obtained (yield: 60%).

reactant | Thionyl chloride | 3.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3,5-diaminobenzoic acid | 33 mmol, 5.0 g | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
reactant | methanol | 250 ml | CO | CH4O
product | Methyl 3,5-diaminobenzoate | 3.3 g, yield: 60% | NC=1C=C(C(=O)OC)C=C(C1)N | C8H10N2O2
